US05688487
3,3-Dimethylallyl bromide (14.08 g, 94.49 mmol) was added to a suspension of anhydrous K2CO3 (13.0 g, 94.20 mmol) and 4-methyl-2-nitroimidazole (10.0 g, 78.74 mmol, D. P. Davies et al, J. Heterocyclic Chem., 1982, 19, 253-256) in dry acetone (100 mL). The reaction mixture was stirred at room temperature under nitrogen atmosphere for 15 hours. The insoluble inorganic material was removed by filtration and the filtrate was evaporated to afford a brown paste which was loaded onto a silica gel column and eluted with hexane ethyl acetate (8.5:1.5). The fractions containing the compound with Rf 0.51 (silica gel TLC, hexane-ethyl acetate, 7:3) were collected and evaporated to afford a solid which was recrystallized from ethyl acetate-hexane to provide 1-(4-methyl-2-nitro-1H-imidazol-1-yl)-3-methyl-2-butene as a light yellow crystalline solid in 60% (9.21 g) yield; mp. 53°--54° C; 1H NMR (CDCl3) δ 1.80 [s, 6H, C(CH3)2 ], 2.26 (s, 3H, imi-CH3), 4.97 (d, 2H, J=7.26 Hz, NCH2), 5.36 (t, 1H, J=7.26 Hz, CH2CH) and 6.90 (s, 1H, imi-CH). 13C NMR (CDCl3) δ 13.80 (imi-CH3), 18.16 & 25.70 [C(CH3)2 ], 47.76 (NCH2), 117.35 (CH2CH), 122.77 (imi-CH), 138.09 [C(CH3)2 ], 139.97 (imi-CCH3) and 143.53 (CNO2). MS m/e 196 (M+H)+.

reactant | 3,3-Dimethylallyl bromide | 94.49 mmol, 14.08 g | CC(=CCBr)C | C5H9Br
reactant | K2CO3 | 94.20 mmol, 13.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-methyl-2-nitroimidazole | 78.74 mmol, 10.0 g | CC=1N=C(NC1)[N+](=O)[O-] | C4H5N3O2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-(4-methyl-2-nitro-1H-imidazol-1-yl)-3-methyl-2-butene | CC=1N=C(N(C1)CC=C(C)C)[N+](=O)[O-] | C9H13N3O2
